US08669266B2
(i) 4-Hydroxy-7-methyl-quinoline-2-carboxylic acid ethyl ester
To a solution of 15.5 g of m-Tolylamine in 130 ml of methanol, 24.6 g of but-2-ynedioic acid diethyl ester was added drop-wise over 30 min at 0° C. and stirred for 3 h at RT. Then, the solvents were removed under reduced pressure and the residue was dissolved in 70 ml of Dowtherm® and heated to 250° C. for 2 h. Then, the reaction mixture was allowed to cool to RT and 300 ml of n-heptane was added to precipitate the crude product, which was collected by filtration. The title compound was purified by chromatography on silica gel eluting with a gradient of n-heptane/ethyl acetate. The fractions containing the product were combined and the solvent evaporated under reduced pressure. Yield: 9.7 g.

reactant | m-Tolylamine | 15.5 g | C1(=CC(=CC=C1)N)C | C7H9N
reactant | but-2-ynedioic acid diethyl ester | 24.6 g | C(C)OC(C#CC(=O)OCC)=O | C8H10O4
solvent | methanol | 130 ml | CO | CH4O
product | 4-Hydroxy-7-methyl-quinoline-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC2=CC(=CC=C2C(=C1)O)C | C13H13NO3
